US06555700B1
A solution of 1,3-dicyclohexylcarbodiimide (710 mg, 3.45 mmol) and 4-(N,N-dimethylamino)pyridine (475 mg, 3.9 mmol) in methylene chloride (10 ml) was added to a solution of 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-3-hydroxypropane (1 g, 3 mmol) and 4-phenylbutanoic acid (520 mg, 3.15 mmol) in methylene chloride (15 ml). The resultant mixture was stirred at room temperature under nitrogen until it was complete as indicated by tlc. The mixture was filtered, concentrated and purified by flash chromatography to yield 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-3-(4-phenylbutanoyloxy)propane.

reactant | 1,3-dicyclohexylcarbodiimide | 3.45 mmol, 710 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-3-hydroxypropane | 3 mmol, 1 g | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)(=O)OCCCO | C21H36O3
reactant | 4-phenylbutanoic acid | 3.15 mmol, 520 mg | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
catalyst | 4-(N,N-dimethylamino)pyridine | 3.9 mmol, 475 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-3-(4-phenylbutanoyloxy)propane | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)(=O)OCCCOC(CCCC1=CC=CC=C1)=O | C31H46O4
